US06660753B2
In a similar fashion, 3-(2-pyridyl)-5-(3-bromo-5-cyanophenyl)-1,2,4-oxadiazole (71 mg, 0.22 mmol), pyridine-3-boronic acid 1,3-propanediol cyclic ester (70 mg, 0.43 mmol), and Pd(PPh3)4 (25 mg, 0.022 mmol) in a solution of ethylene glycol dimethyl ether (3 mL) and 2M sodium carbonate (3 mL) was heated in a sealed vial at 100° C. for 1 hour. Standard work up and silica gel chromatography using a gradient of 50% ethyl acetate in hexane to 100% ethyl acetate followed by trituration with 5% ethyl acetate in diethyl ether afforded 16 mg (22%) of 3-(2-pyridyl)-5-(3-cyano-5-(3-pyridyl)phenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3): δ-8.94 (d, 1H), 8.88 (d, 1H), 8.74 (m, 2H), 8.61 (s, 1H), 8.25 (d, 1H), 8.00 (s, 1H), 7.98 (m, 1H), 7.93 (m, 1H), 7.50 (m, 2H).

reactant | 3-(2-pyridyl)-5-(3-bromo-5-cyanophenyl)-1,2,4-oxadiazole | 0.22 mmol, 71 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C#N)Br | C14H7BrN4O
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 0.43 mmol, 70 mg | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | ethylene glycol dimethyl ether | 3 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 2M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Pd(PPh3)4 | 0.022 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-pyridyl)-5-(3-cyano-5-(3-pyridyl)phenyl)-1,2,4-oxadiazole | 16 mg, 22% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C=1C=NC=CC1)C#N | C19H11N5O
